* NGSPICE file created from Gilbert_cell_layout.ext - technology: gf180mcuD

.subckt LO_diff_pairs_interdigitized a_n2222_n400# a_n2878_n1500# a_n2578_n448# a_n2822_n400#
+ a_n3106_n400# a_n2522_n400# a_n3316_n1664#
X0 a_n2522_n400# a_n2578_n448# a_n2822_n400# a_n3316_n1664# nfet_03v3 ad=2.44p pd=5.22u as=2.44p ps=5.22u w=4u l=0.28u M=5
X1 a_n3106_n400# a_n2578_n448# a_n2222_n400# a_n3316_n1664# nfet_03v3 ad=2.44p pd=5.22u as=2.44p ps=5.22u w=4u l=0.28u M=5
X2 a_n2822_n400# a_n2878_n1500# a_n3106_n400# a_n3316_n1664# nfet_03v3 ad=2.44p pd=5.22u as=2.44p ps=5.22u w=4u l=0.28u M=5
X3 a_n2222_n400# a_n2878_n1500# a_n2522_n400# a_n3316_n1664# nfet_03v3 ad=2.44p pd=5.22u as=2.44p ps=5.22u w=4u l=0.28u M=5
.ends

.subckt RF_diff_pair$1 a_n1066_n1013# a_2016_n849# a_2072_n321# a_n628_n849# a_n572_n321#
+ a_1578_n1013# a_n856_n321# a_1788_n321#
X0 a_1788_n321# a_2016_n849# a_2072_n321# a_n1066_n1013# nfet_03v3 ad=1.22p pd=3.22u as=1.22p ps=3.22u w=2u l=0.28u M=5
X1 a_n856_n321# a_n628_n849# a_n572_n321# a_n1066_n1013# nfet_03v3 ad=1.22p pd=3.22u as=1.22p ps=3.22u w=2u l=0.28u M=5
.ends

.subckt Gilbert_cell_layout VSS I_bias_pos I_bias_neg V_out_p V_out_n V_LO V_LO_b
+ V_RF V_RF_b
XLO_diff_pairs_interdigitized_0 RF_diff_pair$1_0/a_1788_n321# V_LO V_LO_b RF_diff_pair$1_0/a_n572_n321#
+ V_out_p V_out_n VSS LO_diff_pairs_interdigitized
XRF_diff_pair$1_0 VSS V_RF_b I_bias_neg V_RF RF_diff_pair$1_0/a_n572_n321# VSS I_bias_pos
+ RF_diff_pair$1_0/a_1788_n321# RF_diff_pair$1
.ends

